US05147886
To 1 g of 2-bromo-4'-(trifluoromethyl)isobutyrophenone dissolved in methanol was added under ice-cooling 1.74 g of 15% solution of methyl mercaptan sodium salt, and the mixture was stirred for 30 minutes. The reaction mixture was poured into ice-cooled water and extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography using n-hexane/dichloromethane to obtain 0.61 g of an oily product of 2-methylthio-4'-(trifluoromethyl)isobutyrophenone (yield: 68.7%).

reactant | 2-bromo-4'-(trifluoromethyl)isobutyrophenone | 1 g | BrC(C(=O)C1=CC=C(C=C1)C(F)(F)F)(C)C | C11H10BrF3O
reactant | methyl mercaptan sodium salt | [Na].CS
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-methylthio-4'-(trifluoromethyl)isobutyrophenone | yield: 68.7% | CSC(C(=O)C1=CC=C(C=C1)C(F)(F)F)(C)C | C12H13F3OS
